data/mechanism_extracts/OrgLett/10.1021_acs.orglett.4c01311.json
{"doi": "10.1021_acs.orglett.4c01311", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Organoboron-promoted electrochemical chlorosulfonylation of styrenes with sulfonyl chlorides via convergent paired electrolysis to give β-chlorosulfones", "mechanism_family": ["radical_cathodic", "paired_electrolysis", "radical_polar_crossover"], "electrochemical_role": "Cathodic reduction of sulfonyl chloride (RSO2Cl) to sulfonyl radical + chloride; anodic oxidation of the released chloride anion to a chlorine radical, which is shuttled by p-ethylphenylboronic acid as a Cl-boron complex", "key_intermediates": [{"name": "sulfonyl radical (RSO2•)", "smiles": "[O]=S(=O)([R])[*]", "role": "reactive"}, {"name": "benzylic carbon radical adduct P1 (ArCH•-CH2SO2R)", "smiles": null, "role": "reactive"}, {"name": "chlorine radical (Cl•)", "smiles": "[Cl]", "role": "transient"}, {"name": "chloro-boron complex 49 (Ar'B(OH)Cl, dechlorinative borane)", "smiles": "OB(Cl)c1ccc(CC)cc1", "role": "reactive"}, {"name": "chloride anion", "smiles": "[Cl-]", "role": "transient"}], "electron_flow": "Cathode reduces RSO2Cl to a sulfonyl radical plus chloride; the sulfonyl radical adds to the styrene giving benzylic radical P1. The chloride migrates to the anode and is oxidized to Cl•, which is captured by p-ethylphenylboronic acid; this Cl-boron complex then transfers Cl to P1 to deliver the β-chlorosulfone and a dechlorinated borane.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product yield dropped from 68% to 9% (1 equiv) and n.d. (2 equiv), indicating radical involvement"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Product not detected with 2 equiv BHT"}, {"name": "DMPO", "smiles": "CC1(C)CC=C[N+]1([O-])", "purpose": "radical_trap", "observation": "EPR signal (g=2.0056, AN=15.9 G, AH=21.7 G) for carbon radical from tosyl addition to p-F-styrene; HRMS adducts 46 (tosyl) and 47 (benzyl) detected"}, {"name": "N,N-diallyl-4-methylbenzenesulfonamide", "smiles": "C=CCN(CC=C)S(=O)(=O)c1ccc(C)cc1", "purpose": "intermediate_trap", "observation": "Chlorinated ring-closing product 48 NOT detected; instead chloro-boron complex 49 was detected by HRMS, supporting Cl• capture by the boronic acid"}, {"name": "divided cell (H-cell) control", "smiles": null, "purpose": "other", "observation": "No product formed, confirming necessity of paired (undivided) electrolysis"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "EPR", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "CV shows chloride anion (1.42 V) is oxidized preferentially over 4-fluorostyrene (2.45 V vs 1.68 V), and TsCl shows irreversible reduction at -1.63 V; organoboron does not shift redox potentials but increases currents, supporting its role as a Cl-atom shuttle rather than redox mediator. The authors describe the process as ATRA-type within a convergent paired electrolysis framework."}
